US07687502B2
[6-(2-Fluoro-1-fluoromethyl-ethoxy)-quinazolin-4-yl]-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-amine
The compound of Example 30 was manufactured by the same method as in Example 22, by a similar method thereto or by a combination of such a method with a conventional method using 4-chloro-6-hydroxy-quinazoline, 1,3-difluoro-2-propanol and 5-methoxy-thiazolo[5,4-b]pyridin-2-yl-amine.

reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
reactant | 1,3-difluoro-2-propanol | FCC(CF)O | C3H6F2O
reactant | 5-methoxy-thiazolo[5,4-b]pyridin-2-yl-amine | COC1=CC=C2C(=N1)SC(=N2)N | C7H7N3OS
product | [6-(2-Fluoro-1-fluoromethyl-ethoxy)-quinazolin-4-yl]-(5-methoxy-thiazolo[5,4-b]pyridin-2-yl)-amine | FCC(OC=1C=C2C(=NC=NC2=CC1)NC=1SC2=NC(=CC=C2N1)OC)CF | C18H15F2N5O2S
